US05026856
304 mg of 7-(5-acetamidomethyl-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro--4-oxoquinoline-3-carboxylic acid was added to a mixed solution of 12 ml of concentrated HCl, 2.5 ml of water, and 5 ml of ethanol, and the mixture was heated under reflux for 15 hours. After cooling under atmosphere, the crystals deposited were collected by filtration and washed with ethanol to obtain 264 mg of 7-(5-aminomethyl-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride.

reactant | 7-(5-acetamidomethyl-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro--4-oxoquinoline-3-carboxylic acid | 304 mg | C(C)(=O)NCC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C24H22FN3O4
reactant | HCl | 12 ml | Cl | ClH
reactant | water | 2.5 ml | O | H2O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-(5-aminomethyl-2-isoindolinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 264 mg | Cl.NCC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | InChI=1S/C22H20FN3O3.ClH/c23-18-6-16-19(26(15-3-4-15)11-17(21(16)27)22(28)29)7-20(18)25-9-13-2-1-12(8-24)5-14(13)10-25;/h1-2,5-7,11,15H,3-4,8-10,24H2,(H,28,29);1H
